US05679623
Example H4: 1-Amino-2,3-dihydro-3,4-dimethyl-2-oxo-1H-imidazole hydrochloride (compound no. 4.2A.1 in table 2).
0.8 g of 1-acetylamino-2,3-dihydro-3,4-dimethyl-2-oxo-1H-imidazole are suspended in 800 ml of methanol, and the suspension is then heated to 42°. At this temperature, 28 g of gaseous HCl are passed into the suspension in the course of 40 minutes, during which process the suspension turns into a solution and the temperature of the reaction mixture rises to 52°. The solution is concentrated on a rotary evaporator, the residue is stirred with a small amount of tetrahydrofuran, and the crystals which have precipitated are filtered off with suction and dried, yielding the title salt melting at 162°-165°.

reactant | 1-acetylamino-2,3-dihydro-3,4-dimethyl-2-oxo-1H-imidazole | 0.8 g | C(C)(=O)NN1C(N(C(=C1)C)C)=O | C7H11N3O2
reactant | HCl | 28 g | Cl | ClH
solvent | methanol | 800 ml | CO | CH4O
product | 1-Amino-2,3-dihydro-3,4-dimethyl-2-oxo-1H-imidazole hydrochloride | Cl.NN1C(N(C(=C1)C)C)=O | InChI=1S/C5H9N3O.ClH/c1-4-3-8(6)5(9)7(4)2;/h3H,6H2,1-2H3;1H
